US04433152
A mixture of 5.0 g of 1-amidino-4-piperidinepropionic acid hydrochloride, 7.6 g of bis-(p-nitrophenyl)sulfite prepared from p-nitrophenol and thionyl chloride, 20 ml of dry dimethylformamide and 6 ml of dry pyridine was stirred at room temperature for 22 hours. The solvent was removed under reduced pressure, and 70 ml of ethyl acetate and 30 ml of ether were added to the residue. The mixture was well stirred, and the supernatant solution was removed by decantation. 50 ml of ether was added to the residue. Followed by sufficient stirring of the mixture, the supernatant solution was removed by decantation. A small amount of water was added to the residue, and the mixture was stimulated to give crystals. Acetone was added to the crystals, and the mixture was stirred, thereby separating the crystals by filtration. The crystals were washed with acetone and then with ether and dried to obtain 3.2 g of p-nitrophenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless crystals having a melting point of 131° to 136° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 5.0 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | bis-(p-nitrophenyl)sulfite | 7.6 g | [N+](=O)([O-])C1=CC=C(C=C1)OS(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H8N2O7S
reactant | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | Acetone | CC(=O)C | C3H6O
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | p-nitrophenyl 1-amidino-4-piperidinepropionate hydrochloride | 3.2 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C15H20N4O4.ClH/c16-15(17)18-9-7-11(8-10-18)1-6-14(20)23-13-4-2-12(3-5-13)19(21)22;/h2-5,11H,1,6-10H2,(H3,16,17);1H
